US03960863
2-Methyl-3-[2-(4-m-chlorophenyl-1-piperazinyl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 1.1 g of 2-methyl-3-(2-chloroethyl)-4H-pyrido[1,2-a)pyrimidin-4-one, 2.95 g of 1-(m-chlorophenyl)piperazine and 15 ml of toluene was refluxed with heating for 30 hours. After completion of the reaction, the reaction mixture was filtered while hot. The filtrate was concentrated under reduced pressure, and the residue was purified by means of column chromatography using alumina. The product was then recrystallized from a mixture of benzene - n-hexane to give 0.75 g of the desired compound as colorless needles, m.p. 112° - 113°C.

reactant | 2-methyl-3-(2-chloroethyl)-4H-pyrido[1,2-a)pyrimidin-4-one | 1.1 g | CC=1N=C2N(C(C1CCCl)=O)C=CC=C2 | C11H11ClN2O
reactant | 1-(m-chlorophenyl)piperazine | 2.95 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-3-[2-(4-m-chlorophenyl-1-piperazinyl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one | 0.75 g | CC=1N=C2N(C(C1CCN1CCN(CC1)C1=CC(=CC=C1)Cl)=O)C=CC=C2 | C21H23ClN4O
